US07323472B2
To a solution of methylsulfonamide (200 mg, 2 mmol, 4 eq) in DMF (2 mL) was added NaH (80 mg, 2 mmol, 60% dispersion in mineral oil, 4 eq) and the reaction mixture was stirred for 30 min at 23°. To this solution was added a solution of 2-methanesulfonyl-4,8-diphenyl-8H-pyrido[2,3-d]pyrimidin-7-one (190 mg, 0.5 mmol) in DMF (1 mL) and the mixture was heated to 50°. After 1 h, H2O (10 mL) was added and then Et2O (10 mL), the layers were separated, and the organic layer was washed with satd aq NaCl, dried (MgSO4), filtered and the solvent was evaporated. The yellow residue was then purified by Flash chromatography to afford N-(7-oxo-4,8-diphenyl-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-methanesulfonamide (101 mg, 51% yield). 1H-NMR (CDCl3) δ 2.82 (s, 3H), 6.69 (d, 1H, J=9.8 Hz), 7.31 (m, 2H), 7.59 (m, 8H), 7.91 (d, 1H, J=9.8 Hz), LC MS (m/e)=393 (MH+).

reactant | methylsulfonamide | 2 mmol, 200 mg, 4 eq | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 2 mmol, 80 mg, 4 eq | [H-].[Na+]
reactant | 2-methanesulfonyl-4,8-diphenyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.5 mmol, 190 mg | CS(=O)(=O)C=1N=C(C2=C(N1)N(C(C=C2)=O)C2=CC=CC=C2)C2=CC=CC=C2 | C20H15N3O3S
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(7-oxo-4,8-diphenyl-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-methanesulfonamide | 101 mg, 51% yield | O=C1C=CC2=C(N=C(N=C2C2=CC=CC=C2)NS(=O)(=O)C)N1C1=CC=CC=C1 | C20H16N4O3S
